US08623889B2
Step 9: (1S,2S)-2-fluoro-N-(7-(5-fluoro-4-methylpyridin-3-yl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide
A mixture of 7-(5-fluoro-4-methyl-3-pyridyl)-2,6-naphthyridin-3-amine (35 mg, 0.14 mmol), HATU (113 mg, 0.29 mmol), (1S,2S)-2-fluorocyclopropanecarboxylic acid (29 mg, 0.28 mmol), and N,N-diisopropylethylamine (0.10 mL, 0.55 mmol) in DMF (1 mL) was heated at 70° C. for 8 hours. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (25 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by reverse phase HPLC purification (5-85% ACN in water w/0.1% NH4OH, 14 min). Desired fractions were combined and evaporated in vacuo to afford the title compound as an off-white solid (20 mg, 43%). 1H NMR (400 MHz, DMSO) δ 11.22 (s, 1H), 9.35 (s, 1H), 8.70 (s, 1H), 8.59 (sz, 1H), 8.58 (s, 1H), 8.24 (s, 1H), 4.98 (m, 1H), 2.37 (d, J=1.9 Hz, 3H), 2.31 (m, 1H), 1.72 (m, 1H), 1.23 (m, 1H). LCMS (Method E): RT=3.978 min, M+H+=341.2.

reactant | 7-(5-fluoro-4-methyl-3-pyridyl)-2,6-naphthyridin-3-amine | 0.14 mmol, 35 mg | FC=1C(=C(C=NC1)C1=NC=C2C=C(N=CC2=C1)N)C | C14H11FN4
reactant | HATU | 0.29 mmol, 113 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (1S,2S)-2-fluorocyclopropanecarboxylic acid | 0.28 mmol, 29 mg | F[C@@H]1[C@@H](C1)C(=O)O | C4H5FO2
reactant | N,N-diisopropylethylamine | 0.55 mmol, 0.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (1S,2S)-2-fluoro-N-(7-(5-fluoro-4-methylpyridin-3-yl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | 20 mg, 43% | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=NC=C2C1)C=1C=NC=C(C1C)F | C18H14F2N4O
